US06143779
Synthesis of 2-[(3-hydroxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone
After 6-hydroxy-2H-benzofuran-3-one 1 g and 3-hydroxybenzaldehyde 0.813 g were dissolved in methanol 75 ml, concentrated hydrochloric acid 50 ml was added, and the mixture was refluxed for two hours. The solution was cooled to room temperature, water 400 ml was added and allowed to stand for one hour. Precipitated crystals were filtered. The crystals were dried over phosphorous pentoxide at a temperature of 60° C. for five hours under reduced pressure to obtain the desired compound 1.20 g.

reactant | 6-hydroxy-2H-benzofuran-3-one | 1 g | OC1=CC2=C(C(CO2)=O)C=C1 | C8H6O3
reactant | 3-hydroxybenzaldehyde | 0.813 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | water | 400 ml | O | H2O
solvent | methanol | 75 ml | CO | CH4O
product | 2-[(3-hydroxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone | 1.20 g | OC=1C=C(C=CC1)C=C1OC2=C(C1=O)C=CC(=C2)O | C15H10O4
